US04861792
(E)-4-(5-Fluoro-2-hydroxyphenyl)-4-oxo-2-butenoic acid
Into 100 ml of 1,2-dichloroethane, maleic anhydride (11.3 g, 114 mmol) and anhydrous aluminum chloride (31.0 g, 228 mmol) were dissolved by heating at 50° C. for 15 minutes, and then p-fluoroanisole (12.6 g, 100 mmol) was added dropwise. The mixture was refluxed for an hour and then poured into 60 ml of concentrated hydrochloric acid with 400 g of cracked ice. Resulting crystals deposited out therein were obtained through a filtration, washed with water and dried in vacuo to give 16.0 g (80.0%) of the subject desired compound as yellow crystals.

reactant | maleic anhydride | 114 mmol, 11.3 g | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | aluminum chloride | 228 mmol, 31.0 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | p-fluoroanisole | 100 mmol, 12.6 g | FC1=CC=C(C=C1)OC | C7H7FO
reactant | hydrochloric acid | 60 ml | Cl | ClH
solvent | 1,2-dichloroethane | 100 ml | ClCCCl | C2H4Cl2
product | (E)-4-(5-Fluoro-2-hydroxyphenyl)-4-oxo-2-butenoic acid | FC=1C=CC(=C(C1)C(/C=C/C(=O)O)=O)O | C10H7FO4
